US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.561 g, 1.319 mmol) with (R)-4-aminomethyl-2-fluoro-N-(2,2,2-trifluoro-1-methyl-ethyl)-benzamide (0.698 g, 2.642 mmol) by using tris(dibenzylideneacetone)dipalladium(0) (0.241 g, 0.264 mmol), BINAP (0.33 g, 0.53 mmol) and cesium carbonate (1.51 g, 4.63 mmol) in anhydrous toluene (13 mL). Purify by chromatography on silica gel (40 g RediSep® column) eluting with hexane/EtOAc (19:1 to 1:1 gradient over 30 min; 35 mL/min) and then by SCX chromatography to afford (R)-7-chloro-6-[3-fluoro-4-(2,2,2-trifluoro-1-methyl-ethylcarbamoyl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a colorless oil (0.444 g, 62%). MS (ES+) m/z: 540.1 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.319 mmol, 0.561 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | (R)-4-aminomethyl-2-fluoro-N-(2,2,2-trifluoro-1-methyl-ethyl)-benzamide | 2.642 mmol, 0.698 g | NCC1=CC(=C(C(=O)N[C@@H](C(F)(F)F)C)C=C1)F | C11H12F4N2O
reactant | BINAP | 0.53 mmol, 0.33 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 4.63 mmol, 1.51 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 13 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.264 mmol, 0.241 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-7-chloro-6-[3-fluoro-4-(2,2,2-trifluoro-1-methyl-ethylcarbamoyl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.444 g, 62% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC(=C(C=C1)C(N[C@@H](C(F)(F)F)C)=O)F | C23H21ClF7N3O2
